US07019136B2
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (5.6M aqueous solution, 0.33 ml, 1.85 mmol) is added to a suspension of 5,6-diamino-1-isobutyl-3-methyl-1H-pyrmidine-2,4-dione (0.327 g, 1.54 mmol), (1-chloro-6,7-dimethoxy-isoquinolin-4-yl)-acetic acid (0.414 g, 1.54 mmol) and 1-hydroxybenzotriazole (0.25 g, 1.85 mmol) in CH2Cl2 (2ml). Water (2 ml) is added, the biphasic mixture is shaken for 18 hours and the the resultant solid is collected by filtration. This intermediate is suspended in methanol (10 ml), 4M aqueous NaOH (5 ml) is added and the mixture heated to reflux for 4 hours. After evaporation of the methanol, the residue is acidified to pH2 with concentrated hydrochloric acid and the resultant solid collected by filtration and purified by preparative HPLC to afford 8-(1-chloro-6,7-dimethoxy-isoquinolin-4-ylmethyl)-3-isobutyl-1-methyl-3,7-dihydro-purine-2,6-dione hydrochloride, [MH]+ 458.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.85 mmol, 5.6M, 0.33 ml | Cl.CN(CCCN=C=NCC)C
reactant | 5,6-diamino-1-isobutyl-3-methyl-1H-pyrmidine-2,4-dione | 1.54 mmol, 0.327 g | NC=1C(N(C(N(C1N)CC(C)C)=O)C)=O | C9H16N4O2
reactant | (1-chloro-6,7-dimethoxy-isoquinolin-4-yl)-acetic acid | 1.54 mmol, 0.414 g | ClC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)O | C13H12ClNO4
reactant | 1-hydroxybenzotriazole | 1.85 mmol, 0.25 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | CH2Cl2 | 2ml | C(Cl)Cl | CH2Cl2
solvent | Water | 2 ml | O | H2O
product | 8-(1-chloro-6,7-dimethoxy-isoquinolin-4-ylmethyl)-3-isobutyl-1-methyl-3,7-dihydro-purine-2,6-dione hydrochloride | Cl.ClC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC1=NC=2N(C(N(C(C2N1)=O)C)=O)CC(C)C | InChI=1S/C22H24ClN5O4.ClH/c1-11(2)10-28-20-18(21(29)27(3)22(28)30)25-17(26-20)6-12-9-24-19(23)14-8-16(32-5)15(31-4)7-13(12)14;/h7-9,11H,6,10H2,1-5H3,(H,25,26);1H
